US04812573
5-[7-(3-Chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]valeric acid
7-(3-Chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinoline was reacted with ethyl 5-bromovalerate under conditions analogous to those described in Example 2(a). The crude product of the alkylation reaction was then treated with ethereal HCl, and the following ethyl ester hydrochloride was obtained; ethyl-5-[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]valerate hydrochloride; mpt. 178°-180° C. (from ethanol).

reactant | ethyl-5-[7-(3-chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]valerate hydrochloride | Cl.C(C)OC(CCCCN1CC2=CC(=CC=C2CC1)S(NC1=CC(=CC=C1)Cl)(=O)=O)=O
solvent | ethanol | C(C)O | C2H6O
product | 5-[7-(3-Chlorophenylsulphamoyl)-1,2,3,4-tetrahydroisoquinolin-2-yl]valeric acid | ClC=1C=C(C=CC1)NS(=O)(=O)C1=CC=C2CCN(CC2=C1)CCCCC(=O)O | C20H23ClN2O4S
